### PR TITLE
[Merged by Bors] - feat(Combinatorics/SimpleGraph/Clique): add lemmas about cliques in G  ⊔ edge v w

### PR DESCRIPTION
**Pull request by jt496**
Add lemmas about cliques in a graph G versus cliques in G ⊔ edge v w. 
Refactor SimpleGraph.CliqueFree.sup_edge

Co-authored-by: Lian Tattersall <lian.tattersall.20@alumni.ucl.ac.uk>

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Combinatorics/SimpleGraph/Clique.lean [hunk 1]
```diff
@@ -157,6 +157,13 @@ theorem IsClique.of_induce {S : Subgraph G} {F : Set α} {A : Set F}
   intro _ ⟨_, ainA⟩ _ ⟨_, binA⟩ anb
   exact S.adj_sub (c ainA binA (Subtype.coe_ne_coe.mp anb)).2.2
 
+lemma IsClique.sdiff_of_sup_edge {v w : α} {s : Set α} (hc : (G ⊔ edge v w).IsClique s) :
+    G.IsClique (s \ {v}) := by
+  intro x hx y hy hxy
+  have := hc hx.1 hy.1 hxy
+  rw [sup_adj, edge_adj] at this
+  aesop
```
Comment (IvanRenison) [inline Mathlib/Combinatorics/SimpleGraph/Clique.lean:165]:
```suggestion
  simp_all [sup_adj, edge_adj]
```

File: Mathlib/Combinatorics/SimpleGraph/Clique.lean [hunk 2]
```diff
@@ -410,35 +422,18 @@ theorem cliqueFree_two : G.CliqueFree 2 ↔ G = ⊥ := by
...
-    simp only [Fin.val_succEmb, Embedding.coeFn_mk, comp_apply, top_adj]
-    have hs := @ha a.succ b.succ
-    have ia : f a.succ ≠ w := by simp_all
-    have ib : f b.succ ≠ w := by simp_all
-    rw [sup_adj, edge_adj] at hs
-    simp only [ia, ib, and_false, false_and, or_false] at hs
-    rw [hs, Fin.succ_inj]
+   (G ⊔ edge v w).CliqueFree (n + 1) :=
+  fun _ hs ↦ (hs.erase_of_sup_edge_of_mem <|
+    (h.mono <| Nat.le_succ n).mem_of_sup_edge_isNClique hs).not_cliqueFree h
```
Comment (IvanRenison) [inline Mathlib/Combinatorics/SimpleGraph/Clique.lean:436]:
```suggestion
    (h.mono n.le_succ).mem_of_sup_edge_isNClique hs).not_cliqueFree h
```

Comment (jt496) [reply Mathlib/Combinatorics/SimpleGraph/Clique.lean:436]: Thanks for the suggestions!

File: Mathlib/Combinatorics/SimpleGraph/Clique.lean [hunk 3]
```diff
@@ -157,6 +157,12 @@ theorem IsClique.of_induce {S : Subgraph G} {F : Set α} {A : Set F}
   intro _ ⟨_, ainA⟩ _ ⟨_, binA⟩ anb
   exact S.adj_sub (c ainA binA (Subtype.coe_ne_coe.mp anb)).2.2
 
+lemma IsClique.sdiff_of_sup_edge {v w : α} {s : Set α} (hc : (G ⊔ edge v w).IsClique s) :
+    G.IsClique (s \ {v}) := by
```
Comment (urkud) [inline Mathlib/Combinatorics/SimpleGraph/Clique.lean:161]: Could you please also prove that `hc` is equivalent to `s \ {v}` and `s \ {w}` both being cliques in the original graph?

Comment (jt496) [reply Mathlib/Combinatorics/SimpleGraph/Clique.lean:161]: Thanks for the suggestion - `hc` isn't quite equivalent to `s \ {v}` and `s \ {w}` both being cliques in the original graph: we also need `v ≠ w`. I've added this result as `isClique_sup_edge_of_ne_sdiff` followed by the equivalence assuming `v ≠ w` as `isClique_sup_edge_of_ne_iff`

File: Mathlib/Combinatorics/SimpleGraph/Clique.lean [hunk 4]
```diff
@@ -157,6 +157,26 @@ theorem IsClique.of_induce {S : Subgraph G} {F : Set α} {A : Set F}
...
+  intro _ hx _ hy hxy
+  have := hc hx.1 hy.1 hxy
+  simp_all [sup_adj, edge_adj]
+
+lemma isClique_sup_edge_of_ne_sdiff {v w : α} {s : Set α} (h : v ≠ w ) (hv : G.IsClique (s \ {v}))
```
Comment (urkud) [inline Mathlib/Combinatorics/SimpleGraph/Clique.lean:166]:
```suggestion
lemma isClique_sup_edge_of_ne_sdiff {v w : α} {s : Set α} (h : v ≠ w) (hv : G.IsClique (s \ {v}))
```

**Comment by urkud** [comment]
Thanks! :tada:
bors merge
